US09236158B2
As the starting materials, lithium sulfide (Li2S) and phosphorus pentasulfide (P2S5) were used. Powders thereof were measured to have a molar ratio of Li2S:P2S5=75:25 so as to be mixed in an agate mortar. Then, 2 g of the mixture was introduced into a 45 ml of zirconia pot, 4 g of dehydrated heptane (moisture content 30 ppm or less) was introduced, and furthermore, a zirconia ball (φ5.5 mm, 53 g) was introduced, and then the pot was completely sealed. With the pot mounted on a planetary type ball mill machine (P7™ produced by Fritsch Japan Co., Ltd.), a mechanical milling operation was carried out for 20 times with a 500 rpm base plate rotational frequency by a one hour process and 15 minutes pause cycle. Furthermore, after adding 6 mol % of Li2O, the mechanical milling was carried out in the same conditions as mentioned above. Thereafter, the obtained specimen was dried on a hot plate set at 100° C. for removing the heptane so as to obtain a sulfide solid electrolyte material (sulfide glass, Li2S—Li2O—P2S5).

reactant | lithium sulfide | [S-2].[Li+].[Li+]
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | Li2S | S([Li])[Li]
reactant | Li2O | O([Li])[Li]
solvent | heptane | 4 g | CCCCCCC | C7H16
product | Li2S Li2O P2S5 | S([Li])[Li].O([Li])[Li].P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | InChI=1S/4Li.O.P4S10.S/c;;;;;5-1-9-2(6)12-3(7,10-1)14-4(8,11-1)13-2;
